US08445510B2
1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
To a solution of 1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-5-methyl-1H-pyrazole (67.0 mg, 0.208 mmol) in THF (2 mL, 20 mmol) at rt was added 1.3 M of isopropylmagnesium chloride in THF (0.64 mL, 0.83 mmol), and the mixture was stirred for 1 h. The reaction was quenched with 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.1704 mL, 1.040 mmol), and allowed to stir at rt for 1 h. Sat. NH4Cl was added, and the organic solvent was removed in vacuo. The material was extracted with DCM and water. The organic layer was concentrated in vacuo to afford the title compound as a clear oil. MS (ES+): m/z=322.21/323.20/324.22 (50/100/50) [MH+]. HPLC: tR=1.49 min (polar—3 min, UPLC-ACQUITY).

reactant | 1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-5-methyl-1H-pyrazole | 0.208 mmol, 67.0 mg | CC1(OC[C@H](O1)CN1N=CC(=C1C)I)C | C10H15IN2O2
reactant | THF | 20 mmol, 2 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 1.3 M | C(C)(C)[Mg]Cl
reactant | THF | 0.83 mmol, 0.64 mL | C1CCOC1 | C4H8O
reactant | 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.040 mmol, 0.1704 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
reactant | NH4Cl | [NH4+].[Cl-]
product | 1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OC[C@H](O1)CN1N=CC(=C1C)B1OC(C(O1)(C)C)(C)C)C | C16H27BN2O4
